### PR TITLE
Zmod

### PR DESCRIPTION
**Pull request by andres-erbsen**
- [x] TODO comments for `srs` in ZmodBase and Bits
- [x] Added **changelog**.
- [x] Added / updated **documentation**.
- [x] Opened 0 **overlay** pull requests.
- [x] Fix dependency graph

### CODE REVIEW

File: theories/Zmod/ZmodDef.v [hunk 1]
```diff
@@ -0,0 +1,155 @@
...
+Record Zmod (m : Z) := mk {
+  Private_to_Z : Z ; Private_range : Bool.Is_true (small Private_to_Z m) }.
+Arguments Private_to_Z {m}.
+#[global] Add Printing Constructor Zmod.
+
+Definition of_small_Z (m : Z) (z : Z) : Zmod m.
+  refine (mk m (if small z m then z else 0)
+               (transparent_Is_true' _ (fun _ => _))).
+  abstract (case (small z m) eqn:H; rewrite ?H; case m; trivial).
+Defined.
```
Comment (samuelgruetter) [inline theories/Zmod/ZmodDef.v:20]: Some comments on the design choices involved here and in the definition of `small` would be helpful for future readers and contributors.

File: theories/Zmod/ZmodDef.v [hunk 2]
```diff
@@ -0,0 +1,155 @@
...
+
+Definition app {n m} (a : bits n) (b : bits m) : bits (n+m) :=
+  of_Z _ (Z.lor a (Z.shiftl b n)).
+
+Definition firstn n {w} (a : bits w) : bits n := of_Z _ a.
+
+Definition skipn n {w} (a : bits w) : bits (w-n) := of_Z _ (Z.shiftr a n).
+
+Definition extract start pastend {w} (a : bits w) : bits (pastend-start) :=
+  firstn (pastend-start) (skipn start a).
```
Comment (samuelgruetter) [inline theories/Zmod/ZmodDef.v:118]: smtlib bitvectors also have an `extract` function, but with the indices flipped, and using an inclusive-end instead of pastend. Are you deliberately diverging from that standard?

File: theories/Zmod/ZmodDef.v [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+   [app_assoc], for a taste of the challenges. *)
+
+Local Notation bits n := (Zmod (2^n)). (* n : N *)
+
+Definition app {n m} (a : bits n) (b : bits m) : bits (n+m) :=
+  of_Z _ (Z.lor a (Z.shiftl b n)).
+
+Definition firstn n {w} (a : bits w) : bits n := of_Z _ a.
+
+Definition skipn n {w} (a : bits w) : bits (w-n) := of_Z _ (Z.shiftr a n).
```
Comment (samuelgruetter) [inline theories/Zmod/ZmodDef.v:115]: These names assume that we think that the "first" bits are the least significant ones, but when written out as binary numbers, the first bits are the most significant ones. To make it less confusing, could you use names based on "low"/"high" or "lsb"/"msb" or similar?

File: theories/Zmod/ZstarBase.v [hunk 4]
```diff
@@ -0,0 +1,693 @@
...
+  repeat rewrite ?to_Zmod_abs, ?to_Zmod_mul, ?abs_mul_abs_r; trivial.
+Qed.
+
+Lemma abs_mul_abs_abs {m} (x y : Zstar m) : abs (mul (abs x) (abs y)) = abs (mul x y).
+Proof.
+  intros. apply to_Zmod_inj.
+  repeat rewrite ?to_Zmod_abs, ?to_Zmod_mul, ?abs_mul_abs_abs; trivial.
+Qed.
+
+Local Notation "∏ xs" := (List.fold_right mul one xs) (at level 40).
```
Comment (samuelgruetter) [inline theories/Zmod/ZstarBase.v:231]: Making this a local notation will cause lemmas that use it (like eg `prod_app`) appear much less readable when using `About` or `Search`, because they will be displayed using `List.fold_right`. Why not make a regular definition called `prod`, and no notation at all?

File: theories/Zmod/ZmodDef.v [hunk 5]
```diff
@@ -0,0 +1,155 @@
...
+Definition slu {m} (x : Zmod m) n := of_Z m (Z.shiftl x n).
+
+Definition sru {m} (x : Zmod m) n := of_Z m (Z.shiftr x n).
+
+Definition srs {m} x n := of_Z m (Z.shiftr (@signed m x) n).
+
+(** ** Bitvector operations that vary the modulus *)
+
+(** Effective use of the operations defined here with moduli that are not
+   converitble to values requires substantial understanding of dependent types,
```
[the remark this answers is not in the document]
Comment (andres-erbsen) [reply theories/Zmod/ZmodDef.v:102]: "constant" means "Definition" in refman. OTOH first mention of value is "Sometimes the result of a reduction tactic will be a simple value, for example reducing 2*3+4 with cbv beta delta iota to 10". (Values of the modulus type (Z) are exactly the concrete constants, but indeed, maybe there is a better word to use here.)

File: theories/Zmod/ZmodDef.v (hunk 2 above)
Comment (andres-erbsen) [reply theories/Zmod/ZmodDef.v:118]: Hmm. I based the interface here on python slices and `seq`. stdpp agrees with me and notes the disagreement with smtlib. the smtlib bitvector interface is not exactly well loved by its users that I talk to. i'm inclined to keep it as shown, or to remove the definition altogether.

File: theories/Zmod/ZmodDef.v (hunk 3 above)
Comment (andres-erbsen) [reply theories/Zmod/ZmodDef.v:115]: IMO ZArith (e.g. the `Z.testbit` interface) already commits to little-endian hard enough that we should just roll with it, and the similarity to list/vector definitions seems valuable for intuition. Are you objecting to the choice of little-endian specifically, or just to having the interface named in terms of bit ordering?

File: theories/Zmod/Bits.v [hunk 6]
```diff
@@ -0,0 +1,456 @@
...
+
+Module bits.
+Import ZmodDef.Zmod ZmodBase.Zmod ZmodDef.bits.
+
+(** ** Specialized versions of [Zmod] lemmas *)
+
+Notation to_Z_0 := to_Z_0 (only parsing).
+Notation unsigned_0 := unsigned_0 (only parsing).
+
+Lemma unsigned_1 {n : Z} (Hm : 1 <= n) : @to_Z (2^n) one = 1.
```
[the remark this answers is not in the document]
Comment (andres-erbsen) [reply theories/Zmod/Bits.v:19]: Hmm. I think I chose maximally-inserted out of immediate convenience without thorough experimentation. Here are some answers based on my current understanding of the arguments as shown now.

- `rewrite unsigned_1` works, the same way as rewrite `word.unsigned_of_Z_1` works in bedrock2 -- elaborator creates evars for implicits, then rewrite runs. As long as the evars get resolved by unification before the end of rewrite, there is no error.
- I think this choice may change what rewrite opportunities exist for `rewrite !lemma` when there are multiple moduli in the goal -- if the evar is created during elaboration, it would only be instantiated once, but i'd hope that rewrite can instantiate a remaining quantifier with different values.
- Ltac` tactics (not notations) can accept either a reference to a lemma or a constr (not open_constr). So I think the difference only comes up when there is at least one argument specified, at which point calling an Ltac will need all implicit arguments to be inferred at call time.
- `Tactic Notation`s such as `epose proof` use `open_constr` and accept lemmas with evars in them.

Based on this, non-maximally-inserted arguments for lemmas seem like they might be slightly better, but I am hesitant to switch here because i haven't been using them. Looking for examples, List uses [A] whereas {A} is used for lemmas in Fin, Vector, bedrock2 word, mathcomp word, stdpp bitvector, stdpp list. Do you use non-maximally-inserted implicits in lemmas, or know some place that does?

[the remark this answers is not in the document]
Comment (SkySkimmer) [reply theories/Zmod/Bits.v:19]: there is also the choice of doing
~~~
Arguments unsigned_1 {_} _, _ _.
~~~
|                      | unsigned_1    | unsigned_1 x    | unsigned_1 x y    |
| --                   | --            | --              | --                |
| Arguments _ _        | @unsigned_1   | @unsigned_1 x   | @unsigned_1 x y   |
| Arguments [_] _      | @unsigned_1   | @unsigned_1 _ x | @unsigned_1 _ x y |
| Arguments {_} _      | @unsigned_1 _ | @unsigned_1 _ x | @unsigned_1 _ x y |
| Arguments {_} _, _ _ | @unsigned_1 _ | @unsigned_1 _ x | @unsigned_1 x y   |

[the remark this answers is not in the document]
Comment (SkySkimmer) [reply theories/Zmod/Bits.v:19]: >I think this choice may change what rewrite opportunities exist for rewrite !lemma when there are multiple moduli in the goal -- if the evar is created during elaboration, it would only be instantiated once, 

I don't think so
~~~
Axiom foo : forall n m, n + S m = S (n + m).

Goal forall n m, n + S (S m) = S (S ( n + m)).
  intros n m.
  rewrite !(foo _ _).
  (* fully rewritten goal *)
~~~
where
~~~
  let a := open_constr:(_) in let b := open_constr:(_) in 
  rewrite !(foo a b).
~~~
would only rewrite once

[the remark this answers is not in the document]
Comment (andres-erbsen) [reply theories/Zmod/Bits.v:19]: I made a version of this PR that uses [m] instead of {m}, or just "m" for trailing implicits. All proofs but one built with no changes, and that one i'm not sure how it ever worked. With [m], `pose proof unsigned_1` works, whereas with {m} we'd need `pose proof @unsigned_1`. I'm leaning towards keeping this change.

The suggestion for multiple argument lists so that `unsigned_1 m h` works is also interesting, and I do like it, but I'm not sure it's worth trying to write and maintain an exhaustive list of explicit `Arguments` commands.

File: doc/stdlib/depends.dot [hunk 7]
```diff
@@ -19,6 +19,9 @@ digraph stdlib_deps {
 	reals -> nsatz;
 	"arith-base" -> structures;
 	zarith -> lia;
+	zmod -> zarith;
+	sorting -> zarith;
+	field -> zarith;
```
Comment (andres-erbsen) [inline doc/stdlib/depends.dot:24]: - [ ] These are backwards

Comment (andres-erbsen) [inline doc/stdlib/depends.dot:24]:
```suggestion
	zmod -> zarith;
	zmod -> sorting;
	zmod -> field;
```

**Comment by andres-erbsen** [comment]
I think this is ready. Lacking further discussion, I intend to merge in a week or so.

File: theories/Zmod/ZmodDef.v (hunk 2 above)
Comment (samuelgruetter) [reply theories/Zmod/ZmodDef.v:130]: I'm also not a big fan of smtlib's `extract` signature. I think keeping the signature as-is, but renaming to `slice`, would be best.

File: theories/Zmod/ZmodDef.v (hunk 3 above)
Comment (samuelgruetter) [reply theories/Zmod/ZmodDef.v:127]: I think of binary numbers as printed from high indices downto low indices, and of "first" as "what's on the left", which is not compatible with the naming here. 
My preferred way of working with bitvectors is using a `##` operator that's defined like `app` but with the arguments reversed, and inclusive-end `downto` slices, leading to expressions like e.g. 

```
a[31 downto 17] ## b[16] ## a[15 downto 0]
```

But I think this interface can be built on top of the code of this PR, so it's fine to keep this PR strictly consistent with viewing bits as "list of bit" and using the same function names as for lists.
